US07091214B2
tert-Butyl[2-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate (21.80 g, 46.94 mmol) and 3-pyridylboronic acid (6.64 g, 54.0 mmol) were coupled according to the method described in Part J of Example 1. Palladium (II) acetate was added as a 5 mg/mL solution in toluene. The reaction was terminated after 4.5 hours, and the work-up procedure described in Part F of Examples 125–135 was followed. The crude product was recrystallized from acetonitrile (12 mL/g) to provide 10.80 g of tert-butyl {2-[2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]ethyl}carbamate as a white solid.

reactant | tert-Butyl[2-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate | 46.94 mmol, 21.80 g | C(C)(C)(C)OC(NCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)Br)N)COCC)=O | C20H26BrN5O3
reactant | 3-pyridylboronic acid | 54.0 mmol, 6.64 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl {2-[2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]ethyl}carbamate | 10.80 g | C(C)OCC=1N(C2=C(C=NC=3C=C(C=CC23)C=2C=NC=CC2)N1)CCNC(OC(C)(C)C)=O | C25H29N5O3
